US07042755B1
1-Iodo-4(S-acetylthio)benzene (1)
Following a general procedure (Uchiro and Kobayashi (1999) Tetrahedron Lett., 40: 3179–3182), to a stirred suspension of zinc powder (3.80 g, 58.0 mmol) and dichlorodimethylsilane (7.00 mL, 58.0 mmol) in 1,2-dichloroethane (126 mL) was added a solution of 4-iodobenzenesulfonyl chloride (5.00 g, 16.5 mmol) and N,N-dimethylacetamide (4.60 mL, 50.0 mmol) in dichloroethane (126 mL). The mixture was stirred at 75° C. for 2 h until the zinc powder was no longer visible. The reaction mixture was cooled to 50° C. and acetyl chloride (1.53 mL, 21.5 mmol) was added. After 15 min the mixture was poured into water. The water layer was extracted with CH2Cl2 and the combined organic layers were dried (Na2SO4), filtered and evaporated. The colorless oil thus obtained was chromatographed (silica, CH2Cl2/hexanes, 1:4) affording a colorless oil (3.93 g, 85.0%) which solidified at −20° C. mp 56–57° C. (lit. 54–55° C.)43; 1H NMR δ 2.42 (s, 3H), 7.12, 7.73 (AA′BB′, 2×2H); 13C NMR δ 31.0, 96.7, 128.4, 136.7, 139.0, 193.9; Anal. Calcd. for C8H7IOS: C, 34.55; H, 2.54; I, 45.63; S, 11.53; Found: C, 34.69; H, 2.59; I, 45.52; S, 11.59.

reactant | dichlorodimethylsilane | 58.0 mmol, 7.00 mL | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | 4-iodobenzenesulfonyl chloride | 16.5 mmol, 5.00 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | N,N-dimethylacetamide | 50.0 mmol, 4.60 mL | CN(C(C)=O)C | C4H9NO
reactant | acetyl chloride | 21.5 mmol, 1.53 mL | C(C)(=O)Cl | C2H3ClO
solvent | 1,2-dichloroethane | 126 mL | ClCCCl | C2H4Cl2
solvent | dichloroethane | 126 mL | ClC(C)Cl | C2H4Cl2
catalyst | zinc | 58.0 mmol, 3.80 g | [Zn] | Zn
solvent | water | O | H2O
product | 1-Iodo-4(S-acetylthio)benzene | 3.93 g, 85.0% | IC1=CC=C(C=C1)SC(C)=O | C8H7IOS
